US06020366
(S)-2-Benzoylamino-4-dibenzofuran-2-yl-4-oxo-butyric acid methyl ester, prepared as described in Step (b) of Example 6, was dissolved in tetrahydrofuran containing one equivalent of triethylamine. The solution was stirred at room temperature for 1 hour, and then the solvent was removed by evaporation to give a solid. The solid was washed with water to give methyl (S)-2-amino-4-dibenzofuran-2-yl-4-oxo-butyrate as a mono-hydrate.

reactant | (S)-2-Benzoylamino-4-dibenzofuran-2-yl-4-oxo-butyric acid methyl ester | COC([C@H](CC(=O)C1=CC2=C(OC3=C2C=CC=C3)C=C1)NC(C1=CC=CC=C1)=O)=O | C24H19NO5
reactant | tetrahydrofuran | one equivalent | O1CCCC1 | C4H8O
solvent | triethylamine | C(C)N(CC)CC | C6H15N
product | methyl (S)-2-amino-4-dibenzofuran-2-yl-4-oxo-butyrate | N[C@H](C(=O)OC)CC(=O)C1=CC2=C(OC3=C2C=CC=C3)C=C1 | C17H15NO4
